US06166015
4-Methoxyphenylboronic acid (1.0 g, 6.8 mmol, 1.05 equiv.) was added to a solution of N-(1-tert-butoxycarbonylpyrrolidin-3-(RS)-ylmethyl)-2-(5-bromopyrimidin-2-yloxy)acetamide (2.7 g, 6.5 mmol) in 1-propanol (30 mL). The suspension was stirred until all ingredients had dissolved (~10 min). The resulting solution was treated with palladium acetate (29 mg, 0.13 mmol, 0.02 equiv.), triphenylphosphine (103 mg, 0.39 mmol, 0.06 equiv.), 2 M aqueous sodium carbonate (3.9 mL, 7.8 mmol, 1.2 equiv.) and deionized water (9 mL). The reaction mixture was heated at reflux under N2 for 1 h. Water (20 mL) was added and the N2 inlet was removed. After stirring at room temperature overnight, the reaction mixture was thoroughly extracted with ethyl acetate. The combined organic phase was washed with saturated sodium bicarbonate solution and brine. The organic phase was stirred with activated charcoal for 15 min, dried over sodium sulfate and concentrated. Recrystallization of the residue from ethyl acetate in hexane afforded clean N-(1-tert-butoxycarbonylpyrrolidin-3-(RS)-ylmethyl)-2-(5-(4-methoxyphenyl)pyrimidin-2-yloxy)acetamide (2.1 g). The solid was dissolved into methylene chloride (30 mL) and neat trifluoroacetic acid (5 mL) added dropwise. After about 1 h, the solution was concentrated to an oil on a Teflon dryvac, then under high vacuum to give N-(pyrrolidin-3-(RS)-ylmethyl)-2-[5-(4-methoxyphenyl)pyrimidin-2-yloxy]acetamide.

reactant | 4-Methoxyphenylboronic acid | 6.8 mmol, 1.0 g, 1.05 equiv. | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | N-(1-tert-butoxycarbonylpyrrolidin-3-(RS)-ylmethyl)-2-(5-bromopyrimidin-2-yloxy)acetamide | 6.5 mmol, 2.7 g | C(C)(C)(C)OC(=O)N1CC(CC1)CNC(COC1=NC=C(C=N1)Br)=O | C16H23BrN4O4
reactant | triphenylphosphine | 0.39 mmol, 103 mg, 0.06 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 7.8 mmol, 2 M, 3.9 mL, 1.2 equiv. | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-propanol | 30 mL | C(CC)O | C3H8O
catalyst | palladium acetate | 0.13 mmol, 29 mg, 0.02 equiv. | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | Water | 20 mL | O | H2O
solvent | water | 9 mL | O | H2O
product | N-(pyrrolidin-3-(RS)-ylmethyl)-2-[5-(4-methoxyphenyl)pyrimidin-2-yloxy]acetamide | N1CC(CC1)CNC(COC1=NC=C(C=N1)C1=CC=C(C=C1)OC)=O | C18H22N4O3
